US08865698B2
(R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)pivalamide
A DCM (0.5 mL) solution of (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine (Preparation B; 20 mg, 0.063 mmol) was cooled in an ice bath, followed by addition of pivalic anhydride (26 mg, 0.14 mmol) and pyridine (12 mg, 0.14 mmol) drop-wise. The reaction was allowed to warm up to ambient temperature and stirred for 1 hour. The reaction mixture was directly purified by reverse-phase column chromatography, eluting with 5 to 65% acetonitrile/water to yield the final product as a yellowish foamy solid (19 mg, 75%). MS (apci) m/z=400.2 (M+H).

reactant | (R)-5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-amine | 0.063 mmol, 20 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2N | C16H15F2N5
reactant | pivalic anhydride | 0.14 mmol, 26 mg | C(C(C)(C)C)(=O)OC(C(C)(C)C)=O | C10H18O3
reactant | pyridine | 0.14 mmol, 12 mg | N1=CC=CC=C1 | C5H5N
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
product | (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)pivalamide | 19 mg, 75% | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(C(C)(C)C)=O | C21H23F2N5O
